US07220769B2
A solution of 2-ethoxy-4-cyanobenzoyl chloride (10.9 g, 52 mmol), prepared as in Preparation 11, in dichloromethane (109 ml) was added dropwise in 5 h to a solution of 4,5-dichlorophenylendiamine (18.5 g, 104.5 mmol) and triethylamine (53 g=72.6 ml, 523 mmol) in dichloromethane (550 ml). Stirring was continued for additional 2 h. The solvent was removed under vacuum and the residue was triturated with water (100 ml), filtered and dried at 50° C. under vacuum. The solid was suspended in diethyl ether (200 ml), stirred for 1 h, filtered and dried under vacuum to give 19 g of N-(2-amino-4,5-dichlorophenyl)-2-ethoxy-4-cyanobenzamide (yield 51%), mp=195–198° C.

reactant | 2-ethoxy-4-cyanobenzoyl chloride | 52 mmol, 10.9 g | C(C)OC1=C(C(=O)Cl)C=CC(=C1)C#N | C10H8ClNO2
reactant | 4,5-dichlorophenylendiamine | 104.5 mmol, 18.5 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | triethylamine | 523 mmol, 72.6 ml, 53 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 109 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 550 ml | ClCCl | CH2Cl2
product | N-(2-amino-4,5-dichlorophenyl)-2-ethoxy-4-cyanobenzamide | 19 g, yield 51% | NC1=C(C=C(C(=C1)Cl)Cl)NC(C1=C(C=C(C=C1)C#N)OCC)=O | C16H13Cl2N3O2
